US04962237
Calcined hydrotalcite (2.9 g), a glycerol initiated propylene oxide polyol (29.3 g, molecular weight 450) and propylene oxide (5.1 g) are combined in a 75-ml stainless steel reactor, (the reactor is purged with nitrogen) and heated to 100° C. All of the propylene oxide reacts to produce a glycerol-propylene oxide adduct.

reactant | propylene oxide | 5.1 g | C1C(C)O1 | C3H6O
reactant | glycerol | OCC(O)CO | C3H8O3
product | glycerol propylene oxide | OCC(O)CO.C1C(C)O1 | InChI=1S/C3H8O3.C3H6O/c4-1-3(6)2-5;1-3-2-4-3/h3-6H,1-2H2;3H,2H2,1H3
